US07153997B2
N-[3,5-Dichloro-4-(3-chloro-4-hydroxy-5-isopropylphenoxy)benzoyl]glycine (E4)
Boron trifluoride dimethyl sulfide (1.0 mL) was added at room temperature to a stirred solution of methyl-N-[3,5-dichloro-4-(3-chloro-5-isopropyl-4-methoxyphenoxy)benzoyl]glycine (90 mg) and dichloromethane (10 mL). The reaction mixture was stirred at room temperature for 24 hours, poured out in water and extracted with ethyl acetate (3×30 mL). The combined organic phases were washed with water (4×20 mL), concentrated and the resulting residue purified on column (silica gel, chloroform/methanol/acetic acid 94:6:0.65). This gave 53 mg (63%) of N-[3,5-dichloro-4-(3-chloro-4-hydroxy-5-isopropylphenoxy)benzoyl]glycine. LC-MS (ES+1): m/z 434.

reactant | Boron trifluoride dimethyl sulfide | 1.0 mL | CSC.B(F)(F)F
reactant | methyl-N-[3,5-dichloro-4-(3-chloro-5-isopropyl-4-methoxyphenoxy)benzoyl]glycine | 90 mg | CN(CC(=O)O)C(C1=CC(=C(C(=C1)Cl)OC1=CC(=C(C(=C1)C(C)C)OC)Cl)Cl)=O | C20H20Cl3NO5
reactant | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | N-[3,5-Dichloro-4-(3-chloro-4-hydroxy-5-isopropylphenoxy)benzoyl]glycine | ClC=1C=C(C(=O)NCC(=O)O)C=C(C1OC1=CC(=C(C(=C1)C(C)C)O)Cl)Cl | C18H16Cl3NO5
